US08461134B2
To a solution of 4-amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(3-oxobutyl)benzenesulfonamide (0.42 g, 1 mmol) in MeOH (15 mL) was added NaBH4 (0.13 g, 3 mmol). The mixture was stirred at r.t. for 2 hrs. The reaction mixture was concentrated, the residue was purified by pre-HPLC (column: Luna 300×50.0 mm, 10 um; liquid phase: [A-H2O+0.05% TFA; B-MeCN] B %: 5%-33%, 23 min), concentrated, acidified with HCl and freeze-dried to give 4-amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(3-hydroxybutyl)benzenesulfonamide (230 mg, yield 55%) as HCl salt. 1H NMR: (400 MHz, DMSO-d6): δ 9.90 (s, 1H), 7.56 (d, 1H), 7.42 (d, 1H), 7.22 (d, 1H), 7.13-7.10 (m, 1H), 6.42 (d, 1H), 6.36-6.33 (m, 1H), 4.85 (s, 2H), 3.69-3.65 (m, 1H), 2.87-2.80 (m, 2H), 1.55-1.49 (m, 2H), 1.08 (d, 3H).

reactant | 4-amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(3-oxobutyl)benzenesulfonamide | 1 mmol, 0.42 g | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CCC(C)=O | C17H19BN2O5S
reactant | NaBH4 | 3 mmol, 0.13 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
product | 4-amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(3-hydroxybutyl)benzenesulfonamide | 230 mg, yield 55% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CCC(C)O | C17H21BN2O5S
